US08431695B2
Preparation of 7-(1-acetylpiperidin-4-yl)-5-(2-benzyl-1,3-benzothiazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for the preparation of Example 331 and using 5-(2-benzyl-1,3-benzothiazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and acetyl chloride as starting material, 27 mg (54.8%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 8.04 (d, 1H), 7.91 (s, 1H), 7.89 (s, 1H), 7.59 (d, 1H), 7.41-7.29 (m, 5H), 7.56 (s, 1H), 4.76-4.68 (m, 1H), 4.44 (s, 2H), 3.96-3.90 (m, 1H), 3.56-3.44 (m, 1H), 3.30-3.24 (m, 1H), 2.70-2.80 (m, 1H), 2.22-2.12 (m, 2H), 2.10 (s, 3H), 1.76-1.60 (m, 2H) LC-MS m/z [M+H]+ 483.3, RT 2.76 min.

reactant | 5-(2-benzyl-1,3-benzothiazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)C=1SC2=C(N1)C=CC(=C2)C=2C=C(N1N=CN=C(C12)N)C1CCNCC1 | C25H24N6S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 7-(1-acetylpiperidin-4-yl)-5-(2-benzyl-1,3-benzothiazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 27 mg, 54.8% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C2=CC1=C(N=C(S1)CC1=CC=CC=C1)C=C2 | C27H26N6OS
